US05840732
ii) Synthesis of imidazo[1,2-a]pyridin-5-ylthioacetic acid [3-(1,1,6,8-tetraoxo-9-phenyl-2,3,4,8-tetrahydro-pyrimido[6,1-b][1,3]thiazin-7-yl)propyl]amide hydrochloride
To a solution of 390 mg (0.72 mmol) of imidazo[1,2-a]pyridin-5-ylthioacetic acid [3-(1,1,6,8-tetraoxo-9-phenyl-2,3,4,8-tetrahydro-pyrimido[6,1-b][1,3]thiazin-7-yl)propyl]amide in 10 ml of methanol, 0.07 ml (0.85 mmol) of concentrated hydrochloric acid was added. After the reaction mixture was concentrated to dryness, the residue was washed with diethyl ether to yield 370 mg (89.2%, white solid) of the desired product.

reactant | imidazo[1,2-a]pyridin-5-ylthioacetic acid [3-(1,1,6,8-tetraoxo-9-phenyl-2,3,4,8-tetrahydro-pyrimido[6,1-b][1,3]thiazin-7-yl)propyl]amide | 0.72 mmol, 390 mg | O=S1(C=2N(CCC1)C(N(C(C2C2=CC=CC=C2)=O)CCCNC(CC2=CC=CC=1N2C=CN1)=S)=O)=O | C25H25N5O4S2
reactant | hydrochloric acid | 0.85 mmol, 0.07 ml | Cl | ClH
solvent | methanol | 10 ml | CO | CH4O
product | imidazo[1,2-a]pyridin-5-ylthioacetic acid [3-(1,1,6,8-tetraoxo-9-phenyl-2,3,4,8-tetrahydro-pyrimido[6,1-b][1,3]thiazin-7-yl)propyl]amide hydrochloride | Cl.O=S1(C=2N(CCC1)C(N(C(C2C2=CC=CC=C2)=O)CCCNC(CC2=CC=CC=1N2C=CN1)=S)=O)=O | InChI=1S/C25H25N5O4S2.ClH/c31-23-22(18-7-2-1-3-8-18)24-30(14-6-16-36(24,33)34)25(32)29(23)13-5-11-27-21(35)17-19-9-4-10-20-26-12-15-28(19)20;/h1-4,7-10,12,15H,5-6,11,13-14,16-17H2,(H,27,35);1H
